US06022906
3-Mercapto-propionic acid 2-[4-(2-methyl-2-morpholin-4-yl-propionyl)-phenylthio]-ethyl ester
5.9 g (19.1 mmol) of 1-[4-(2-hydroxyethylthio)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one, 4.2 ml (38.2 mmol) of ethyl thioglycolate, and 4.4 g (22.9 mmol) of p-toluenesulfonic acid monohydrate are mixed and stirred at 100° C. for 24 h. Then the solution is cooled to room temperature and neutralized with 1N NaOH. The crude product is extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over MgSO4, and concentrated. The residue is purified by column chromatography on silica gel with ethyl acetate -hexane (30:70) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 1.31 (s, 6H), 1.99 (t, 1H), 2.57 (t, 4H), 3.22-3.30 (m, 4H), 3.70 (t, 4H), 4.36 (t, 2H), 7.34 (d, 2H), 8.51 (d, 2H).

reactant | 1-[4-(2-hydroxyethylthio)-phenyl]-2-methyl-2-morpholin-4-yl-propan-1-one | 19.1 mmol, 5.9 g | OCCSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C16H23NO3S
reactant | ethyl thioglycolate | 38.2 mmol, 4.2 ml | C(CS)(=O)OCC | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 22.9 mmol, 4.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaOH | 1N | [OH-].[Na+]
product | 3-Mercapto-propionic acid 2-[4-(2-methyl-2-morpholin-4-yl-propionyl)-phenylthio]-ethyl ester | CC(C(=O)C1=CC=C(C=C1)SCCOC(CCS)=O)(C)N1CCOCC1 | C19H27NO4S2
